US04220658
A mixture as 33.7 g (0.106 mole) of 1-(2,6-dichlorophenyl-N-methylamidino)-3-(t-butyl)urea and 200 ml of conc. hydrochloric acid is refluxed for 1/2 hour. The reaction mixture is cooled, filtered and washed with 10 ml of 1:1 HCl/H2O and dried. The product is then recrystallized from ethanol-ether to obtain 1-(2,6-dichlorophenyl-N-methylamidino)urea.

reactant | 1-(2,6-dichlorophenyl-N-methylamidino)-3-(t-butyl)urea | 0.106 mole, 33.7 g | ClC1=C(C(=CC=C1)Cl)N(C(=N)NC(=O)NC(C)(C)C)C | C13H18Cl2N4O
solvent | hydrochloric acid | 200 ml | Cl | ClH
product | 1-(2,6-dichlorophenyl-N-methylamidino)urea | ClC1=C(C(=CC=C1)Cl)N(C(=N)NC(=O)N)C | C9H10Cl2N4O
